* c:\users\hp\esim-workspace\jaishreeram\jaishreeram.cir
* FOR INPUT 0 AND 1

* Include the SKY130 PDK library
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt

* Define Voltage Sources for Power Supply and Inputs
VDD v_dd 0 DC 1.8                 ; Define the power supply voltage (1.8V)

* Define Constant Inputs for XOR gate (1, 1)
VIN1 netA 0 DC 0                  ; Constant input for Input A
VIN2 netB 0 DC 1.8                ; Constant input for Input B

* NMOS Transistor Definitions (for XOR Gate)
xsc1 out netA gnd gnd sky130_fd_pr__nfet_01v8  ; NMOS1
xsc2 out netB gnd gnd sky130_fd_pr__nfet_01v8  ; NMOS2 

* PMOS Transistor Definitions (for XOR Gate)
xsc3 out netA v_dd v_dd sky130_fd_pr__pfet_01v8  ; PMOS1
xsc4 out netB v_dd v_dd sky130_fd_pr__pfet_01v8  ; PMOS2 

* Simulation Command: Define Transient Analysis
.tran 1n 2m                     ; Transient analysis with timestep of 1ns and stop time of 2ms

* Save the Input and Output Voltages
.save v(out) v(netA) v(netB)

* Control Statements for Simulation and Output Plotting
.control
run
plot v(out) v(netA) v(netB)  ; Plot the output and both inputs
.endc

* End of Circuit Definition
.end
